Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
abdominal pain  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH of chronic pancreatitis ___ yrs, with multiple 
frequent ED visits to ___ and ___ (GI doc is ___ 
there), presents to ___ with cc: abdominal pain.  

Per pt report, she has had diarrhea, vomiting and abdominal pain 
for the past two days. Emesis and diarrhea are both nonbloody 
and denies melena. Diarrhea is watery, having multiple stools 
daily. She presented to ___ today initially, and was given 
zofran, PPI and tylenol and discharged. Subsequently, she 
presented to ___ ED.  
 
In the ED intial vitals were: 10 98.3 98 ___ 100%  
- Labs were significant for  
bicarb 19 and Cl of 109, normal BUN/Cr, LFTs unremarkable. No 
leukocytosis. Crit 41.8. Clean U/A  
studies: CT abd and pelvis  
No evidence of peripancreatic fluid collection or cysts. No 
acute  
intra-abdominal findings to explain patient's abdominal pain.  

Per ___ ED e-signout, "Suspect that given ___ just discharged 
her 2 hours ago and reportedly refused to give her pain 
medicines there, that there is an element of pain-seeking in 
this case".  

Patient was given zofran, dilaudid 2mg IV, 1L NS bolus.  

Vitals prior to transfer were: 7 97.7 78 119/76 16 98% RA  

On the floor, pt is getting out of bed to to nurses desk asking 
for medication. On assessment, she is sitting in bed teary eyed. 
She reports that she woke up 2 days ago with nausea and felt 
sick to her stomach. She reports that she then began having 
watery diarrhea throughout day and non-bloody, nonbilious vomit. 
She reports that everything she eats, she vomits.  

Pt reports that she presented to ___ this morning because she 
felt very ill 
and was having subjective fevers. She was given fluids, zofran 
and tylenol. She reports that they didnt admit her because all 
of her labs were normal. She then walked to ___ (allegedly at 
the suggestion of ___ patient relations) and waited in waiting 
room for 4 hrs.  
 
Past Medical History:
Chronic abdominal pain
Possible chronic pancreatitis, with prior episodes of acute 
pancreatitis - followed by Dr. ___ at ___. triggered by 
binge drinking ___ years ago. Per ___ records: "Multiple 
endoscopies, multiple CT scans, ultrasounds in the past. Two 
celiac plexus blocks in ___ and ___  
Gastritis  
GERD  
Duodeniitis  
Bleeding ulcers  
Endometriosis  
Polycystic ovaries
anxiety
Depression
 
Social History:
___
Family History:
father has crohn's  

 
Physical Exam:
On admission:
Vitals- 97.9, 135/82, 64, 18, 98RA  
General- comfortable, but crying in bed, with towel over eyes, 
has emesis basin in arms but empty.  
HEENT- sclera anicteric, OP clear  
Neck- No LAD  
Lungs- CTAB  
CV- RRR no MRG  
Abdomen- soft, NABS, no organomegaly, mildly tender in 
midepigastric region but no rebound.  
GU- deferred  
Ext- no c/c/e  
Neuro- normal gait. grossly intact 

On discharge:
Vitals- 97.9  135/82  64  18  98%RA 
General- crying in bed, appears distraught
HEENT- sclera anicteric, OP clear  
Neck- No LAD  
Lungs- CTAB  
CV- RRR no MRG  
Abdomen- +bs, soft, mildly tender in epigastric region, 
intermittent voluntary guarding, no rebound
Ext- no c/c/e  
Skin: faint small pink papules scattered on back

 
Pertinent Results:
===============
Labs:
===============
___ 08:20PM BLOOD WBC-9.6 RBC-4.70 Hgb-13.8 Hct-41.8 MCV-89 
MCH-29.3 MCHC-32.9 RDW-13.0 Plt ___
___ 06:00AM BLOOD WBC-8.2 RBC-4.12* Hgb-11.8* Hct-36.7 
MCV-89 MCH-28.7 MCHC-32.2 RDW-13.1 Plt ___
___ 08:20PM BLOOD Neuts-57.9 ___ Monos-6.4 Eos-0.9 
Baso-0.6
___ 08:20PM BLOOD Glucose-79 UreaN-8 Creat-0.8 Na-141 K-3.9 
Cl-109* HCO3-19* AnGap-17
___ 06:00AM BLOOD Glucose-98 UreaN-7 Creat-0.8 Na-136 K-3.8 
Cl-110* HCO3-22 AnGap-8
___ 08:20PM BLOOD ALT-14 AST-21 AlkPhos-52 TotBili-0.4
___ 08:20PM BLOOD Albumin-4.5
___ 06:00AM BLOOD Calcium-8.2* Phos-3.2 Mg-1.6

___ 06:26PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

___ 06:26PM URINE Color-Straw Appear-Clear Sp ___
___ 06:26PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

===============
Micro:
===============
None

===============
Imaging:
===============
CT ABD & PELVIS WITH CONTRAST Study Date of ___ 10:32 ___ 
IMPRESSION: 
1. No acute intra-abdominal findings to explain patient's 
abdominal pain.  
2. 13 mm right involuting corpus luteum cyst with small amount 
of surrounding pelvic free fluid and fibroid uterus.   

 
Brief Hospital Course:
___ with PMH of possible chronic pancreatitis, numerous ED and 
hospital admissions at other hospitals, presents to ___ ED 
after being seen at ___ for ongoing abdominal pain and emesis.  

# Abdominal pain and emesis, most consistent with acute viral 
gastroenteritis: Reported symptoms of N/V, diarrhea, and 
abdominal pain consistent with acute viral gastroenteritis. Did 
not have fever in ED or after admission. Had a faint rash on her 
back which she reported had been present for months, so unlikely 
viral exanthem. Differential for pain also includes acute on 
chronic pancreatitis, but pt without elevated lipase or findings 
on CT to suggest pancreatitis. Given history of multiple ED 
visits and pain med requests, malingering also a possibility. Pt 
was placed on norovirus precautions and was treated with IV 
fluids and zofran. Was continued on home creon. Attempts to 
contact ___ physician, ___, were not successful. Was 
not given opiates, as not appropriate for acute gastroenteritis 
and pt did not have findings to suggest another etiology. Pt 
repeated requested additional pain medication; she became upset 
when she did not receive any opiates and left the hospital.

# Anxiety, Depression: Pt appeared distraught and seemed to have 
poor coping skills. Made passively suicidal statements 
concerning to nursing staff. Was seen by social worker who 
contacted therapist. Therapist reported she has had passive SI 
in the past, but never had a plan or intent. Became angry when 
not given opiates to treat abdominal pain, with intent to leave 
hospital. Was evaluated by psychiatry, and determined not to 
meet criteria for inpatient stabilization. Patient to follow up 
with her psychiatrist after discharge, and had telephone 
appointment with her therapist the day after discharge to 
arrange her next therapy appointment. Was continued on prn 
clonazepam during admission.

# GERD: Contined on omeprazole

Transitional issues:
-Patient to follow up with her psychiatrist after discharge, and
has telephone appointment with her therapist at 1pm day after 
discharge to
arrange her next therapy appointment.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. Omeprazole 20 mg PO DAILY 
3. Creon 12 1 CAP PO TID W/MEALS 
4. ClonazePAM 1 mg PO TID:PRN anxiety 

 
Discharge Medications:
1. ClonazePAM 1 mg PO TID:PRN anxiety 
2. Creon 12 1 CAP PO TID W/MEALS 
3. Omeprazole 20 mg PO DAILY 
4. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Abdominal pain, suspected acute gastroenteritis
Secondary: Possible chronic pancreatitis, anxiety, depression, 
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure to care for you. You were hospitalized due to 
abdominal pain. Lab tests and a CT scan did not identify any 
causes of the pain. We feel your pain is most likely due to an 
acute viral gastrointestinal illness. Please continue to eat and 
drink. You can get pedialyte in any pharmacy which is great for 
hydration.
 
Followup Instructions:
___